US05998433
c) Synthesis of 1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-(4-fluorophenyl)hexan-1-one hydrochloride
1-(2-Dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-(4-fluorophenyl)hexan-1-one 0.098 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. After this mixture was concentrated, the resulting solid was washed with diethyl ether to yield the desired product.

reactant | 1-(2-Dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-(4-fluorophenyl)hexan-1-one | 0.098 g | CN(C)CC1=CC2=C(CN(CC2)C(CCCCCC2=CC=C(C=C2)F)=O)O1 | C22H29FN2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-(4-fluorophenyl)hexan-1-one hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(CCCCCC2=CC=C(C=C2)F)=O)O1 | InChI=1S/C22H29FN2O2.ClH/c1-24(2)15-20-14-18-12-13-25(16-21(18)27-20)22(26)7-5-3-4-6-17-8-10-19(23)11-9-17;/h8-11,14H,3-7,12-13,15-16H2,1-2H3;1H
